* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 0 1.80k
R3 N002 N001 680.00
R1 N003 N002 82.00
R4 N001 N002 10.00
R5 N003 N001 12.00
V1 0 N003 30

.end