* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 0 47.00
R3 N002 N001 3.30k
R1 N003 N002 270.00
R4 N001 N002 1.00k
R5 N003 N001 22.00
V1 0 N003 30

.end