* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 0 15.00
R3 N002 N001 2.70
R1 N003 N002 33.00
R4 N001 N002 3.90
R5 N003 N001 470.00
V1 0 N003 30

.end